US08258141B2
N-{(1S,2R,3S,4R)-4-[2-(4-Amino-pyrazol-1-yl)-6-((S)-1-hydroxymethyl-2-phenyl-ethylamino)-purin-9-yl]-2,3-dihydroxy-cyclopentyl}-2-hydroxy-acetamide
The title compound is prepared analogously to N-{(1S,2R,3S,4R)-4-[2-(4-amino-pyrazol-1-yl)-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-2,3-dihydroxy-cyclopentyl}-2-hydroxy-acetamide (Intermediate ZP), by substituting acetic acid {(1S,2R,3S,4R)-4-[2-chloro-6-((S)-1-hydroxymethyl-2-phenyl-ethylamino)-purin-9-yl]-2,3-dihydroxy-cyclopentylcarbamoyl}-methyl ester (Intermediate ZM) for acetic acid {(1S,2R,3S,4R)-4-[2-chloro-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-2,3-dihydroxy-cyclopentylcarbamoyl}-methyl ester (Intermediate Q1).

reactant | N-{(1S,2R,3S,4R)-4-[2-(4-amino-pyrazol-1-yl)-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-2,3-dihydroxy-cyclopentyl}-2-hydroxy-acetamide | NC=1C=NN(C1)C1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](C1)NC(CO)=O)O)O)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C29H31N9O4
reactant | acetic acid {(1S,2R,3S,4R)-4-[2-chloro-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-2,3-dihydroxy-cyclopentylcarbamoyl}-methyl ester | ClC1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](C1)NC(=O)COC(C)=O)O)O)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C28H29ClN6O5
product | N-{(1S,2R,3S,4R)-4-[2-(4-Amino-pyrazol-1-yl)-6-((S)-1-hydroxymethyl-2-phenyl-ethylamino)-purin-9-yl]-2,3-dihydroxy-cyclopentyl}-2-hydroxy-acetamide | NC=1C=NN(C1)C1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](C1)NC(CO)=O)O)O)N[C@@H](CC1=CC=CC=C1)CO | C24H29N9O5
